US04010176
1-Methyl-2-(3a,4,5,6,7,7a-hexahydro-1,2-benz-isoxazol-3-yl)-5-nitroimidazole
Following the same procedure as in Example 30, the hydroxamoylchloride prepared as in Example 7 is reacted with cyclohexene. The product, 2-(3a,4,5,6,7,7a-hexahydro-1,2-benz-isoxazol-3-yl)-5-nitroimidazole has a melting point of 119°-121° C.

reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | 2-(3a,4,5,6,7,7a-hexahydro-1,2-benz-isoxazol-3-yl)-5-nitroimidazole | O1N=C(C2C1CCCC2)C=2NC(=CN2)[N+](=O)[O-] | C10H12N4O3
product | 1-Methyl-2-(3a,4,5,6,7,7a-hexahydro-1,2-benz-isoxazol-3-yl)-5-nitroimidazole | CN1C(=NC=C1[N+](=O)[O-])C1=NOC2C1CCCC2 | C11H14N4O3
